US05849743
d) 6-Chloro-1-cyclohexyl-7-nitroquinoxaline-2,3(1H,4H)-dione
26.3 g (94 mmol) of 6-chloro-1-cyclohexylquinoxaline -2,3(1H,4H)-dione were dissolved in 275 ml of concentrated sulfuric acid and subsequently, at 0° C., 9.5 g (94 mmol) of potassium nitrate were added in portions. The mixture was then stirred at 0° C. for 30 min and at 25° C. for 2 h and subsequently poured into ice-water, and the precipitate was filtered off with suction. 29.5 g (97%) of the product were obtained. Melting point >300° C.

reactant | 6-chloro-1-cyclohexylquinoxaline -2,3(1H,4H)-dione | 94 mmol, 26.3 g | ClC=1C=C2NC(C(N(C2=CC1)C1CCCCC1)=O)=O | C14H15ClN2O2
reactant | potassium nitrate | 94 mmol, 9.5 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 275 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Chloro-1-cyclohexyl-7-nitroquinoxaline-2,3(1H,4H)-dione | 29.5 g, 97% | ClC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])C1CCCCC1)=O)=O | C14H14ClN3O4
